US04584290
To a suspension of phosphorus pentachloride (13.74 g) in dichloromethane (150 ml) was dropwise added pyridine (5.34 ml) at -15° to -10° C. under stirring which was continued at the same temperature for 30 minutes. To the above mixture was added benzhydryl 7-phenylacetamido-3-(2,2-dibromovinyl)-2-cephem-4-carboxylate (29.4 g) at -5° C. After the reaction mixture was stirred at -5° for 1.5 hours, methanol (26.62 ml) was dropwise added to the reaction mixture under cooling at -20° and the mixture was stirred at -20° C. to -5° C. for 1.5 hours. Then water (30 ml) was added to the reaction mixture under ice-cooling. After the reaction mixture was stirred for an hour at the same temperature, diisopropylether (100 ml) was added to the reaction mixture at 0° C. The resultant precipitates were collected by filtration and washed in turn with water and diisopropyl ether to give benzhydryl 7-amino-3-(2,2-dibromovinyl)-2-cephem-4-carboxylate hydrochloride (25.23 g).

reactant | phosphorus pentachloride | 13.74 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | pyridine | 5.34 ml | N1=CC=CC=C1 | C5H5N
reactant | benzhydryl 7-phenylacetamido-3-(2,2-dibromovinyl)-2-cephem-4-carboxylate | 29.4 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C=C(Br)Br)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H24Br2N2O4S
reactant | diisopropylether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | methanol | 26.62 ml | CO | CH4O
product | benzhydryl 7-amino-3-(2,2-dibromovinyl)-2-cephem-4-carboxylate hydrochloride | 25.23 g | Cl.NC1[C@@H]2N(C(C(=CS2)C=C(Br)Br)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C22H18Br2N2O3S.ClH/c23-16(24)11-15-12-30-21-17(25)20(27)26(21)18(15)22(28)29-19(13-7-3-1-4-8-13)14-9-5-2-6-10-14;/h1-12,17-19,21H,25H2;1H/t17?,18?,21-;/m1./s1
